US07893090B2
(RS)-1-{2-[1-(2-Dimethylamino-ethyl)-5,6-difluoro-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound was prepared from (RS)-1-[2-(5,6-difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone, E35 (300 mg) and (2-chloro-ethyl)-dimethyl-amine, according to a procedure similar to that described for Example 71 as a white solid (88 mg, 26%).

reactant | (RS)-1-[2-(5,6-difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | FC1=CC2=C(NC(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C=C1F | C24H21F3N4OS
reactant | (2-chloro-ethyl)-dimethyl-amine | ClCCN(C)C | C4H10ClN
product | (RS)-1-{2-[1-(2-Dimethylamino-ethyl)-5,6-difluoro-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | CN(CCN1C(=NC2=C1C=C(C(=C2)F)F)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C | C28H30F3N5OS
